US07910740B2
A mixture of 2.0 g (10.7 mmol) 2-chloro-5-nitroanisole, 1.65 g (11.2 mmol) 4-bromoimidazole and 5.21 g (16.0 mmol) cesium carbonate in 50 ml acetonitrile was refluxed overnight. The reaction mixture was concentrated, diluted with water and extracted with ethyl acetate. The organic phase was dried, evaporated and the residue purified on silica gel with ethyl acetate/heptane 3/7. After trituration with diethyl ether 707 mg (22%) of 4-bromo-1-(2-methoxy-4-nitro-phenyl)-1H-imidazole was isolated as a slightly brownish solid. MS ISP (m/e): 298.1/300.0 (100/87) (M+H)+. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.96 (d, 2H), 7.77 (s, 1H), 7.44 (d, 1H), 7.26 (s, 1H), 4.02 (s, 3H).

reactant | 2-chloro-5-nitroanisole | 10.7 mmol, 2.0 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | 4-bromoimidazole | 11.2 mmol, 1.65 g | BrC=1N=CNC1 | C3H3BrN2
reactant | cesium carbonate | 16.0 mmol, 5.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-bromo-1-(2-methoxy-4-nitro-phenyl)-1H-imidazole | BrC=1N=CN(C1)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C10H8BrN3O3
